US05559113
3-Cyclohexylpropyl 3-(1H-imidazol-4-yl)propyl ether
5 mmol of sodium 3-[1-(triphenylmethyl)imidazol-4-yl]propoxide in 10 ml of toluene containing 0.5 mmol of 15-Crown-5 and 5 mmol of (3-chloropropyl)cyclohexane are mixed and the mixture is stirred for 24 h at 75° C. The suspension is concentrated under vacuum, the product obtained is dissolved in diethyl ether, the solution is filtered and the residue washed with petroleum ether (40°-60° C.). The filtrate obtained is concentrated and maintained for 1 h at the boiling point in a 2N aqueous/alcohol (ethanol/water) hydrochloric acid solution. The ethanol is removed under a low vacuum and the precipitate is filtered under vacuum. The solution is basified, extracted with dichloromethane and the organic phase is concentrated. The title compound obtained is recrystallized in the hydrogenmaleate form from ethanol/diethyl ether.

reactant | sodium 3-[1-(triphenylmethyl)imidazol-4-yl]propoxide | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC[O-])(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | toluene | 0.5 mmol, 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | 15-Crown-5 | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | (3-chloropropyl)cyclohexane | 5 mmol | ClCCCC1CCCCC1 | C9H17Cl
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-Cyclohexylpropyl 3-(1H-imidazol-4-yl)propyl ether | N1C=NC(=C1)CCCOCCCC1CCCCC1 | C15H26N2O
